US08034827B2
a) (3-[1,4′]Bipiperidinyl-1′-yl-propyl-carbamic acid tert-butyl ester
A mixture of 4-piperidinopiperidine (Aldrich) (2.0 g, 11.88 mmol), (3-bromo-propyl)-carbamic acid tert-butyl ester [Eur. J. Med. Chem. Chim. Ther. 37 (2002) 573-584] (3.96 g, 16.63 mmol), dimethyl formamide (130 mL) and potassium carbonate (1.64 g, 11.88 mmol) was stirred at room temperature overnight, then concentrated in vacuo. The residue was dissolved in water (150 mL), extracted with dichloromethane (3×150 mL), the combined organic layers were washed with brine (150 mL), dried over sodium sulfate, filtered and concentrated. The crude product was submitted to column chromatography using Kieselgel 60 (0.040-0.063 mm) (Merck) as adsorbent, and chloroform:methanol:NH4OH=10:1:0.1 as eluent to yield 2.27 g (59%) of the title compound as an oil.

reactant | 4-piperidinopiperidine | 11.88 mmol, 2.0 g | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | (3-bromo-propyl)-carbamic acid tert-butyl ester | 16.63 mmol, 3.96 g | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
reactant | potassium carbonate | 11.88 mmol, 1.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 130 mL | CN(C=O)C | C3H7NO
product | 3-[1,4′]Bipiperidinyl-1′-yl-propyl-carbamic acid tert-butyl ester | 2.27 g, 59% | C(C)(C)(C)OC(NCCCN1CCC(CC1)N1CCCCC1)=O | C18H35N3O2
